US05744612
Into the same device as used in Example 34 were placed 43.5 g (0.10 mole) of ethyl ester of 1-(2'-cyanobiphenyl-4-yl)methyl-4-(1-hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylic acid, 13.1 g (0.20 mole) of sodium azide, 31.9 g (0.23 mole) of triethylamine hydrochloride and 206 ml of toluene. Thereafter, the mixture was reacted and treated in the same manner as in Example 34, giving 27.0 g (0.06 mole) of 4-(1-hydroxy-1-methylethyl)-2-propyl-1-{4-[2-(tetrazole-5-yl)phenyl]phenyl}methylimidazole-5-carboxylic acid (yield 60.0% based on ethyl ester of 1-(2'-cyanobiphenyl-4-yl)methyl-4-(1-hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylic acid).

reactant | 1-(2'-cyanobiphenyl-4-yl)methyl-4-(1-hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylic acid | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C(=O)O)C(C)(C)O)CCC | C24H25N3O3
reactant | sodium azide | 0.20 mole, 13.1 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 0.23 mole, 31.9 g | Cl.C(C)N(CC)CC
solvent | toluene | 206 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(1-hydroxy-1-methylethyl)-2-propyl-1-{4-[2-(tetrazole-5-yl)phenyl]phenyl}methylimidazole-5-carboxylic acid | 0.06 mole, 27.0 g, yield 60.0% | OC(C)(C)C=1N=C(N(C1C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCC | C24H26N6O3
